* File: pseudo_nmos.pex.netlist.pex
* Created: Fri May 27 16:10:07 2022
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PSEUDO_NMOS%NET1 6 11 18
c0 31 0 0.165943f
c1 30 0 0.315225f
c2 27 0 0.806115f
c3 26 0 0.0435296f
c4 21 0 0.102771f
c5 18 0 0.509711f
c6 2 0 0.0228173f
r7 30 31 8
r8 26 27 8
r9 21 24 8.41568
r10 21 31 13.2552
r11 18 24 129.5
r12 14 27 0.37
r13 13 14 3.26654
r14 11 13 0.85
r15 9 14 1.06975
r16 8 9 16.3327
r17 6 8 3.375
r18 3 26 0.144161
r19 2 30 1.17336
r20 2 3 0.0363319
.ends

.subckt PM_PSEUDO_NMOS%NET2 4 9 16
c0 30 0 0.352233f
c1 23 0 0.0690309f
c2 22 0 0.100725f
c3 21 0 0.0846128f
c4 19 0 0.0215262f
c5 16 0 0.34616f
c6 12 0 0.783564f
r7 26 30 1.20138
r8 26 27 8
r9 22 30 8
r10 21 23 8.84118
r11 21 22 13.2552
r12 19 23 29.5
r13 14 19 5.02856
r14 14 16 120.75
r15 12 27 0.84
r16 11 12 3.26654
r17 9 11 0.85
r18 7 27 0.35812
r19 6 7 16.3327
r20 4 6 3.375
.ends

.subckt PM_PSEUDO_NMOS%B 4 13
c0 13 0 0.151283f
c1 9 0 0.103602f
c2 4 0 0.332903f
r3 9 13 13.2552
r4 6 9 3.33
r5 2 6 5.0159
r6 2 4 90.25
.ends

.subckt PM_PSEUDO_NMOS%A 4 14
c0 14 0 0.144502f
c1 10 0 0.119647f
c2 4 0 0.361718f
r3 7 10 3.33
r4 7 14 13.2552
r5 2 10 5.0159
r6 2 4 90
.ends

.subckt PM_PSEUDO_NMOS%D 4 14
c0 14 0 0.151927f
c1 9 0 0.107953f
c2 4 0 0.358235f
r3 9 14 13.2552
r4 6 9 3.33
r5 2 6 5.0159
r6 2 4 90.25
.ends

.subckt PM_PSEUDO_NMOS%C 4 13
c0 13 0 0.13947f
c1 10 0 0.120476f
c2 4 0 0.358792f
r3 7 10 3.33
r4 7 13 13.2552
r5 2 10 5.0159
r6 2 4 90
.ends

.subckt PM_PSEUDO_NMOS%F 4 14
c0 14 0 0.151844f
c1 9 0 0.108154f
c2 4 0 0.357775f
r3 9 14 13.2552
r4 6 9 3.33
r5 2 6 5.0159
r6 2 4 90.25
.ends

.subckt PM_PSEUDO_NMOS%E 4 13
c0 13 0 0.137207f
c1 10 0 0.121197f
c2 4 0 0.357111f
r3 7 10 3.33
r4 7 13 13.2552
r5 2 10 5.0159
r6 2 4 90
.ends

.subckt PM_PSEUDO_NMOS%NET3 6 11 20
c0 24 0 0.0272587f
c1 23 0 0.0950723f
c2 20 0 0.394195f
c3 16 0 0.108727f
c4 14 0 0.509988f
c5 9 0 0.232793f
c6 5 0 0.0241608f
r7 23 26 2.72571
r8 23 24 13.2552
r9 18 20 120.75
r10 17 26 5.24078
r11 16 18 5.02856
r12 16 17 29.5
r13 13 14 3.26654
r14 11 13 0.85
r15 8 9 16.3327
r16 6 8 3.375
r17 4 24 0.0213043
r18 4 5 0.00770322
r19 3 9 0.371304
r20 3 5 0.0296412
r21 2 14 0.861
r22 2 5 0.0296412
.ends

.subckt PM_PSEUDO_NMOS%VDD 20 21 26 31 36 55
c0 55 0 0.0132335f
c1 39 0 0.227349f
c2 34 0 0.126627f
c3 29 0 0.128245f
c4 24 0 0.114732f
c5 15 0 0.0188844f
c6 9 0 0.0237933f
c7 8 0 0.0672718f
c8 7 0 0.0608388f
c9 4 0 0.0158657f
c10 3 0 9.65472e-21
c11 2 0 0.0205289f
r12 38 39 4.08318
r13 36 38 1.0576
r14 33 34 16.3327
r15 31 33 3.375
r16 28 29 16.3327
r17 26 28 3.375
r18 23 24 16.3327
r19 21 23 3.375
r20 20 55 8.16635
r21 20 45 1.63327
r22 18 55 0.104545
r23 18 19 0.0189496
r24 17 39 0.511304
r25 17 19 0.0186388
r26 15 45 0.231818
r27 15 16 0.0189496
r28 14 34 0.35
r29 14 16 0.0186388
r30 12 45 0.0709091
r31 12 13 0.0189496
r32 11 29 0.35
r33 11 13 0.0186388
r34 10 24 0.35
r35 8 19 0.0189496
r36 8 9 0.175455
r37 7 9 0.042432
r38 6 7 0.336304
r39 5 16 0.0189496
r40 4 6 0.042432
r41 4 5 0.0845455
r42 3 10 0.042432
r43 2 13 0.0189496
r44 2 3 0.302727
.ends

.subckt PM_PSEUDO_NMOS%GND 12 21 28 33 38 43 48 49 57 62 67 72
c0 92 0 0.123363f
c1 87 0 0.102448f
c2 82 0 0.100385f
c3 77 0 0.103615f
c4 70 0 0.125821f
c5 68 0 0.0748327f
c6 65 0 0.0675307f
c7 63 0 0.0709481f
c8 60 0 0.0681129f
c9 58 0 0.0681438f
c10 55 0 0.0708388f
c11 53 0 0.0683026f
c12 52 0 0.76186f
c13 46 0 0.775825f
c14 41 0 0.754002f
c15 36 0 0.746013f
c16 31 0 0.508973f
c17 12 0 0.00599304f
c18 8 0 0.0585616f
c19 6 0 0.0634053f
c20 4 0 0.0640087f
c21 2 0 0.0615855f
r22 89 92 8.39118
r23 89 90 13.2552
r24 84 87 8.39118
r25 84 85 13.2552
r26 79 82 8.39118
r27 79 80 13.2552
r28 74 77 8.39118
r29 74 75 13.2552
r30 70 72 59.25
r31 68 70 5.02856
r32 68 92 21.75
r33 65 67 22
r34 63 65 5.02856
r35 63 87 21.75
r36 60 62 22
r37 58 60 5.02856
r38 58 82 21.75
r39 55 57 22
r40 53 55 5.02856
r41 53 77 21.75
r42 51 52 1.81474
r43 49 51 0.528802
r44 48 51 0.528802
r45 46 90 0.938609
r46 45 46 1.81474
r47 43 45 0.528802
r48 41 85 1.12578
r49 41 99 0.834217
r50 40 41 3.26654
r51 38 40 0.85
r52 36 80 1.12578
r53 35 36 3.26654
r54 33 35 0.85
r55 31 75 1.12578
r56 30 31 3.26654
r57 28 30 0.85
r58 24 99 0.0189182
r59 21 24 0.960747
r60 19 52 1.02139
r61 19 20 0.0189182
r62 17 46 1.02139
r63 17 18 0.0189182
r64 15 36 0.834217
r65 15 16 0.0189182
r66 14 31 0.834217
r67 10 20 0.0187308
r68 10 12 0.104103
r69 9 18 0.0187308
r70 8 20 0.0187308
r71 8 9 0.20641
r72 7 24 0.0187308
r73 6 18 0.0187308
r74 6 7 0.297949
r75 5 16 0.0187308
r76 4 24 0.0187308
r77 4 5 0.298846
r78 3 14 0.0425976
r79 2 16 0.0187308
r80 2 3 0.298846
.ends

.subckt PM_PSEUDO_NMOS%Y 11 12 17 18 22
c0 25 0 0.385971f
c1 21 0 0.663504f
c2 15 0 0.243181f
c3 9 0 0.0214483f
c4 3 0 0.0607425f
c5 2 0 0.0807132f
r6 24 25 1.81474
r7 22 24 0.528802
r8 20 21 1.81474
r9 18 20 0.528802
r10 17 20 0.528802
r11 14 15 4.08318
r12 12 14 1.0576
r13 9 25 0.792522
r14 9 11 0.0195555
r15 8 15 0.544783
r16 7 8 0.00411102
r17 5 21 0.792522
r18 4 7 0.13087
r19 4 5 0.00411102
r20 3 7 0.035
r21 2 11 0.0195555
r22 2 3 0.21913
.ends

.subckt PM_PSEUDO_NMOS%NET026 1 2
r0 1 2 0.833333
.ends

.subckt PM_PSEUDO_NMOS%NET_025 1 2
r0 1 2 0.833333
.ends

.subckt PM_PSEUDO_NMOS%NET_024 1 2
r0 1 2 0.833333
.ends

